US09212168B2
(a) (2S,4S)-4-Methyl-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromophenyl)-2-oxo-ethyl]ester 1-tert-butyl ester
To a mixture of p-bromophenacyl bromide (242 mg, 0.87 mmol) in DCM (1.5 mL) and DMA (1.5 mL), under nitrogen, was added (2S,4S)-4-methyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (200 mg, 0.87 mmol) and N,N-diisopropylethylamine (531.8 μL, 3.05 mmol) and the resulting mixture was stirred at 35° C. for 3 h, concentrated under vacuum, dissolved in DCM (30 mL), and washed with water (2×5 ml). The organic layer was dried over magnesium sulfate, filtered, and concentrated under vacuum to provide the title intermediate.

reactant | p-bromophenacyl bromide | 0.87 mmol, 242 mg | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | (2S,4S)-4-methyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.87 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C)C(=O)O | C11H19NO4
reactant | N,N-diisopropylethylamine | 3.05 mmol, 531.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | DMA | 1.5 mL | CC(=O)N(C)C | C4H9NO
product | (2S,4S)-4-Methyl-pyrrolidine-1,2-dicarboxylic acid 2-[2-(4-bromophenyl)-2-oxo-ethyl]ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C)C(=O)OCC(=O)C1=CC=C(C=C1)Br | C19H24BrNO5
